US05006534
1-[3-(quinolin-8-yloxymethyl)phenyl]pentyl benzoate
3.2 g (10 mmol) of 1-[3-(quinolin-8-yloxymethyl)phenyl]-pentanol are dissolved in 50 ml of dichloromethane. After the addition of 2.8 ml of triethylamine and 1.16 ml of benzoyl chloride, the mixture is stirred for 2 hours at 25° C. and then heated under reflux for 5 hours. The reaction mixture is washed three times with water, dried over sodium sulphate and evaporated down. The residue is chromatographed over silica gel 60 (mobile phase: 100:2 dichloromethane/methanol). An oil is obtained.

reactant | 1-[3-(quinolin-8-yloxymethyl)phenyl]-pentanol | 10 mmol, 3.2 g | N1=CC=CC2=CC=CC(=C12)OCC=1C=C(C=CC1)C(CCCC)O | C21H23NO2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.16 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-[3-(quinolin-8-yloxymethyl)phenyl]pentyl benzoate | C(C1=CC=CC=C1)(=O)OC(CCCC)C1=CC(=CC=C1)COC=1C=CC=C2C=CC=NC12 | C28H27NO3
